US05741792
A. [S-(R*,R*]-1-[2-(Azidomethyl)-1-pyrrolidinyl]-2-[[(1,1-dimethylethoxy)carbonyl]amino]-3-(phenylmethoxy)-1-propanone
Example 1a Part A compound (2.13 g, 9.4 mmol) was dissolved in dichloromethane (5 mL) and trifluoroacetic acid (7 mL) and stirred at RT 3 hours. The TFA and dichloromethane were removed by distillation under reduced pressure and by coevaporation with toluene to give the amine as a TFA salt. This and N-BOC-O-benzyl-L-serine (2.95 g, 10 mmol) were dissolved in DMF (50 mL). HOBT (1.35 g, 10 mmol), WSC (1.91 g, 10 mmol) and NMM (3.3 mL, 30 mmol) were added. The reaction was stirred for 8 h at room temperature, diluted with ethyl acetate (50 mL) and satd. KHSO4 solution (30 mL). The layers were separated and the aqueous layer was reextracted with ethyl acetate (50 mL). The combined organic layers were washed with saturated sodium bicarbonate solution (30 mL)) and 10% lithium chloride solution (30 mL). The ethyl acetate layer was dried over magnesium sulfate and concentrated in vacuo to provide title compound (3.87 g, 100%) as an oil which was used without further purification.

reactant | N-BOC-O-benzyl-L-serine | 10 mmol, 2.95 g | C(=O)(OC(C)(C)C)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | HOBT | 10 mmol, 1.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 10 mmol, 1.91 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | NMM | 30 mmol, 3.3 mL | CN1CCOCC1 | C5H11NO
reactant | KHSO4 | 30 mL | OS(=O)(=O)[O-].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-[2-(Azidomethyl)-1-pyrrolidinyl]-2-[[(1,1-dimethylethoxy)carbonyl]amino]-3-(phenylmethoxy)-1-propanone | 3.87 g, 100% | N(=[N+]=[N-])CC1N(CCC1)C(C(COCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C20H29N5O4
